US08242125B2
120-A. 5,7-Dihydro-3H-thieno[3,4-d]pyrimidin-4-one
Commercially available 4-carbomethoxytetrahydro-3-thiophenone (5 g, 31.2 mmol) is dissolved in EtOH (284 mL). Formamidine acetate (22 g, 211 mmol) is then added followed by sodium ethoxide (45 mL, 121 mmol, 21% w/w) and the mixture is heated at 90° C. for 14 hours. Reaction is cooled to room temperature and concentrated to a residue which is absorbed onto silica and separated via FCC (0-10% Methanol:CH2Cl2) to give the title compound as a solid. MS (EST) m/z 155.14 (M+1).

reactant | 4-carbomethoxytetrahydro-3-thiophenone | 31.2 mmol, 5 g | C(=O)(OC)C1C(CSC1)=O | C6H8O3S
reactant | Formamidine acetate | 211 mmol, 22 g | C(C)(=O)O.C(=N)N
reactant | sodium ethoxide | 121 mmol, 45 mL | [O-]CC.[Na+]
solvent | EtOH | 284 mL | CCO | C2H6O
product | 5,7-Dihydro-3H-thieno[3,4-d]pyrimidin-4-one | N1=CNC(C2=C1CSC2)=O | C6H6N2OS
